US07728014B2
{3-[5-(4-Ethyl-phenyl)-6-phenyl-pyridin-2-ylmethoxy]-propyl}-phosphonic Acid (Compound 72).
To a solution of crude {3-[5-(4-ethyl-phenyl)-6-phenyl-pyridin-2-ylmethoxy]-propyl}-phosphonic acid diethyl ester (18 mg, 0.039 mmol) in CHCl3 (2 ml) at room temperature was added TMSI (77 mg, 0.39 mmol) dropwise. After the mixture was stirred for 1 hour, the solvent was removed in vacuo to recover a yellow oily residue. The residue was taken-up in THF/H2O (4:1) and stirred at room temperature overnight. The mixture was extracted with ethyl acetate. The combined organic layers were washed with NaHSO3, and water, and brine, and dried over Na2SO4. The filtered solvents were concentrated in vacuo and the residue was purified by MPLC on silica gel (0-100% MeOH in ethyl acetate) to give the title compound as a white solid.

reactant | {3-[5-(4-ethyl-phenyl)-6-phenyl-pyridin-2-ylmethoxy]-propyl}-phosphonic acid diethyl ester | 0.039 mmol, 18 mg | C(C)OP(OCC)(=O)CCCOCC1=NC(=C(C=C1)C1=CC=C(C=C1)CC)C1=CC=CC=C1 | C27H34NO4P
reactant | TMSI | 0.39 mmol, 77 mg | [Si](C)(C)(C)I | C3H9ISi
solvent | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | {3-[5-(4-Ethyl-phenyl)-6-phenyl-pyridin-2-ylmethoxy]-propyl}-phosphonic Acid | C(C)C1=CC=C(C=C1)C=1C=CC(=NC1C1=CC=CC=C1)COCCCP(O)(O)=O | C23H26NO4P
